* JSIM deck file generated with TimEx
* === DEVICE-UNDER-TEST ===
* Back-annotated simulation file written by InductEx v.6.1.52 on 2022/08/15.
* Author: L. Schindler
* Version: 3.0
* Last modification date: 4 August 2022
* Last modification by: T. Hall
* Copyright (c) 2018-2022 Lieze Schindler, Tessa Hall, Stellenbosch University
* Permission is hereby granted, free of charge, to any person obtaining a copy
* of this cell library and associated documentation files (the "Library"), to deal
* in the Library without restriction, including without limitation the rights
* to use, copy, modify, merge, publish, distribute, sublicense, and/or sell
* copies of the Library, and to permit persons to whom the Library is
* furnished to do so, subject to the following conditions:
* The above copyright notice and this permission notice shall be included in all
* copies or substantial portions of the Library.
* THE LIBRARY IS PROVIDED "AS IS", WITHOUT WARRANTY OF ANY KIND, EXPRESS OR
* IMPLIED, INCLUDING BUT NOT LIMITED TO THE WARRANTIES OF MERCHANTABILITY,
* FITNESS FOR A PARTICULAR PURPOSE AND NONINFRINGEMENT. IN NO EVENT SHALL THE
* AUTHORS OR COPYRIGHT HOLDERS BE LIABLE FOR ANY CLAIM, DAMAGES OR OTHER
* LIABILITY, WHETHER IN AN ACTION OF CONTRACT, TORT OR OTHERWISE, ARISING FROM,
* OUT OF OR IN CONNECTION WITH THE LIBRARY OR THE USE OR OTHER DEALINGS IN THE
* LIBRARY.
* For questions about the library, contact Tessa Hall, 19775539@sun.ac.za.
* The cell output is designed to be connected directly to a passive transmission lines.
*$Ports  a q
.subckt THmitll_PTLTX a q
.model jjmit jj(rtype=1, vg=2.8mV, cap=0.07pF, r0=160, rn=16, icrit=0.1mA)
.param Phi0=2.067833848E-15
.param B0=1
.param Ic0=0.0001
.param IcRs=100u*6.859904418
.param B0Rs=IcRs/Ic0*B0
.param Rsheet=2 
.param Lsheet=1.13e-12 
.param LP=0.5p
.param IC=2.5
.param ICtrans=2.5
.param LB=2p
.param BiasCoef=0.7
.param Lptl=2p
.param RD=1.36
.param B1=IC
.param B2=ICtrans
.param IB1=BiasCoef*Ic0*B1      
.param IB2=BiasCoef*Ic0*B2
.param LB1=LB           
.param LB2=LB   
.param L1=Phi0/(4*B1*Ic0)         
.param L2=Phi0/(2*B1*Ic0)     
.param L3=Lptl
.param LP1=LP         
.param LP2=LP
.param RB1=B0Rs/B1       
.param RB2=B0Rs/B2
   
.param LRB1=(RB1/Rsheet)*Lsheet+LP
.param LRB2=(RB2/Rsheet)*Lsheet+LP
B1 1 2 jjmit  area=B1 
B2 4 5 jjmit  area=B2 
IB1 0 3 pwl(0 0 5p IB1)
IB2 0 6 pwl(0 0 5p IB2)
LB1 3 1 1.003E-012 
LB2 6 4 3.702E-012 
L1 a 1 2.061E-012 
L2 1 4 4.1E-012 
L3 4 7 6.098E-013 
LP1 2 0 4.298E-013 
LP2 5 0 3.112E-013 
RD 7 q RD  
RB1 1 101 RB1  
LRB1 101 0 LRB1 
RB2 4 104 RB2  
LRB2 104 0 LRB2 
.ends
* === SOURCE DEFINITION ===
.SUBCKT SOURCECELL  a q
.model jjmit jj(rtype=1, vg=2.8mv, cap=0.07pf, r0=160, rn=16, icrit=0.1ma)
.param phi0=2.067833848e-15
.param b0=1
.param ic0=0.0001
.param icrs=100u*6.859904418
.param b0rs=icrs/ic0*b0
.param rsheet=2
.param lsheet=1.13e-12
.param lp=0.5p
.param ic=2.5
.param lb=2p
.param biascoef=0.7
.param b1=2.25
.param b2=2.25
.param b3=ic
.param ib1=275u
.param ib2=b3*ic0*biascoef
.param lb1=lb
.param lb2=lb
.param l1=1p
.param l2=3.9p
.param l3=0.6p
.param l4=1.1p
.param l5=4.5p
.param l6=phi0/(4*ic*ic0)
.param lp2=lp
.param lp3=lp
.param rb1=b0rs/b1
.param rb2=b0rs/b2
.param rb3=b0rs/b3
.param lrb1=(rb1/rsheet)*lsheet
.param lrb2=(rb2/rsheet)*lsheet+lp
.param lrb3=(rb3/rsheet)*lsheet+lp
b1 2 3 jjmit  area=b1
b2 5 6 jjmit  area=b2
b3 7 8 jjmit  area=b3
ib1 0 4 pwl(0 0 5p ib1)
ib2 0 9 pwl(0 0 5p ib2)
lb1 4 3 2.825e-012
lb2 9 7 2.942e-012
l1 a 1 1.672e-012
l2 1 0 3.901e-012
l3 1 2 5.953e-013
l4 3 5 1.1e-012
l5 5 7 4.542e-012
l6 7 q 2.012e-012
lp2 6 0 3.924e-013
lp3 8 0 3.841e-013
rb1 2 102 rb1
lrb1 102 3 lrb1
rb2 5 105 rb2
lrb2 105 0 lrb2
rb3 7 107 rb3
lrb3 107 0 lrb3
.ENDS SOURCECELL
* === INPUT LOAD DEFINITION ===
.SUBCKT LOADINCELL  a q
.model jjmit jj(rtype=1, vg=2.8mv, cap=0.07pf, r0=160, rn=16, icrit=0.1ma)
.param phi0=2.067833848e-15
.param b0=1
.param ic0=0.0001
.param icrs=100u*6.859904418
.param b0rs=icrs/ic0*b0
.param rsheet=2
.param lsheet=1.13e-12
.param lp=0.5p
.param ic=2.5
.param lb=2p
.param biascoef=0.7
.param b1=ic
.param b2=ic
.param ib1=(b1+b2)*ic0*biascoef
.param lb1=lb
.param l1=phi0/(4*b1*ic0)
.param l2=phi0/(4*b1*ic0)
.param l3=phi0/(4*b2*ic0)
.param l4=phi0/(4*b2*ic0)
.param lp1=lp
.param lp2=lp
.param rb1=b0rs/b1
.param rb2=b0rs/b2
.param lrb1=(rb1/rsheet)*lsheet+lp
.param lrb2=(rb2/rsheet)*lsheet+lp
b1 1 2 jjmit  area=b1
b2 5 6 jjmit  area=b2
ib1 0 4 pwl(0 0 5p ib1)
lb1 4 3 2.336e-012
l1 a 1 2.07e-012
l2 1 3 2.088e-012
l3 3 5 2.082e-012
l4 5 q 2.072e-012
lp1 2 0 3.137e-013
lp2 6 0 3.123e-013
rb1 1 101 rb1
lrb1 101 0 lrb1
rb2 5 105 rb2
lrb2 105 0 lrb2
.ENDS LOADINCELL
* === OUTPUT LOAD DEFINITION ===
.SUBCKT LOADOUTCELL  a q
tload a 0 q 0 lossless z0=5.3 td=50p
.ENDS LOADOUTCELL
* === SINK DEFINITION ===
.SUBCKT SINKCELL  a
.model jjmit jj(rtype=1, vg=2.8mv, cap=0.07pf, r0=160, rn=16, icrit=0.1ma)
.param phi0=2.067833848e-15
.param b0=1
.param ic0=0.0001
.param icrs=100u*6.859904418
.param b0rs=icrs/ic0*b0
.param rsheet=2
.param lsheet=1.13e-12
.param lp=0.5p
.param ic=2.5
.param icreceive=1.6
.param ictrans=2.5
.param lb=2p
.param biascoef=0.7
.param lptl=2p
.param rd=1.36
.param b1=1.6
.param b2=0.81
.param b3=2.5
.param ib1=112u
.param ib2=239u
.param lb1=lb
.param lb2=lb
.param l1=lptl
.param l2=8.2192p
.param l3=1.4265p
.param l4=2.2384p
.param l5=lptl
.param lp1=lp
.param lp2=lp
.param lp3=lp
.param rb1=b0rs/b1
.param rb2=b0rs/b2
.param rb3=b0rs/b3
.param lrb1=(rb1/rsheet)*lsheet+lp
.param lrb2=(rb2/rsheet)*lsheet+lp
.param lrb3=(rb3/rsheet)*lsheet+lp
b1 1 2 jjmit  area=b1
b2 4 5 jjmit  area=b2
b3 8 9 jjmit  area=b3
ib1 0 3 pwl(0 0 5p ib1)
ib2 0 7 pwl(0 0 5p ib2)
lb1 3 1 3.202e-012
lb2 7 6 2.142e-013
l1 a 1 1.986e-012
l2 1 4 8.188e-012
l3 4 6 1.431e-012
l4 6 8 2.254e-012
l5 8 10 7.542e-013
rd 10 q rd
rsink q 0 2
lp1 2 0 4.596e-013
lp2 5 0 4.684e-013
lp3 9 0 4.113e-013
rb1 1 101 rb1
lrb1 101 0 lrb1
rb2 4 104 rb2
lrb2 104 0 lrb2
rb3 8 108 rb3
lrb3 108 0 lrb3
.ENDS SINKCELL
* ===== MAIN =====
I_a 0 1 pulse(0 600u 20p 2p 2p 1p 50p)
XSOURCEINa SOURCECELL 1 2
XLOADINa LOADINCELL 2 3
XLOADOUTq LOADOUTCELL 4 5
XSINKOUTq SINKCELL 5
XDUT thmitll_ptltx 3 4
.tran 0.25p 500p 0
.print i(L1.XDUT) p(B1.XDUT) p(B2.XDUT) p(B1.XSINKOUTq)
.end
